US06133271
Following the procedure of Example 97, the reaction of 1,2,4-triazole with 2-chloro-5-methyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(1,2,4-triazol-1-yl)-5-methyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 2-chloro-5-methyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC=C2C)NCC2=CC1=C(C=C2)OCCO1 | C16H14ClN3O2S
product | 2-(1,2,4-triazol-1-yl)-5-methyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CN=C1)C=1N=C(C2=C(N1)SC=C2C)NCC2=CC1=C(C=C2)OCCO1 | C18H16N6O2S
